US05212320
60% Sodium hydride in mineral oil (0.13 g) was added to a solution of 4-[3-(3-tert-butoxycarbonylaminobenzoyl)indol-1-yl]butyric acid (0.47 g) in N,N-dimethylformamide (7 ml). The mixture was stirred at 0° C. for 1 hour. Benzyl bromide (0.95 g) was added to the mixture and the ixture was stirred at room temperature for 20 hours. The mixture was poured into ice water and 0.5N-hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (30 g) eluting with a mixture of n-hexane and ethyl acetate (5:1) to give benzyl 4-[3-[3-(N-benzyl-N-tert-butoxycarbonylamino)benzoyl]indol-1-yl]butyrate (325 mg) as an oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-[3-(3-tert-butoxycarbonylaminobenzoyl)indol-1-yl]butyric acid | 0.47 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C24H26N2O5
reactant | Benzyl bromide | 0.95 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | benzyl 4-[3-[3-(N-benzyl-N-tert-butoxycarbonylamino)benzoyl]indol-1-yl]butyrate | 325 mg | C(C1=CC=CC=C1)N(C(=O)OC(C)(C)C)C=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC2=CC=CC=C2)C=CC1 | C38H38N2O5
